US07989461B2
(E)-N-((4-bromo-5-methylthiophen-2-yl)methylene)-2,2-dimethoxyethanamine (15.00 g, 51.34 mmol) was taken up in EtOH (50 ml) and treated with sodium borohydride (1.942 g, 51.34 mmol) slowly (some fizzing observed). The reaction was stirred at reflux for 3 hours and at room temperature overnight. The reaction was then concentrated under reduced pressure and the residue was taken up in a mixture of ethyl acetate and water. The layer were separated and the organic layer washed (2×) with an aqueous saturated solution of sodium bicarbonate, then with water and then brine. The organic layer was dried with sodium sulfate and concentrated under reduced pressure to give N-((4-bromo-5-methylthiophen-2-yl)methyl)-2,2-dimethoxyethanamine as a brown oil. MS (M+1) 295.

reactant | (E)-N-((4-bromo-5-methylthiophen-2-yl)methylene)-2,2-dimethoxyethanamine | 51.34 mmol, 15.00 g | BrC=1C=C(SC1C)\C=N\CC(OC)OC | C10H14BrNO2S
reactant | sodium borohydride | 51.34 mmol, 1.942 g | [BH4-].[Na+]
solvent | EtOH | 50 ml | CCO | C2H6O
product | N-((4-bromo-5-methylthiophen-2-yl)methyl)-2,2-dimethoxyethanamine | BrC=1C=C(SC1C)CNCC(OC)OC | C10H16BrNO2S
